US07452993B2
27.50 g (0.104 mol) of 3-amino-6-iodo-pyrazine-2-carboxylic acid, 63.0 g (0.125 mol) of PyBOP (1-benzotriazolyloxy-tris(pyrrolidino)phosphonium hexafluorophosphate) and 18.70 g (0.193 mol) of N,O-dimethylhydroxylamine hydrochloride were placed in a nitrogen flushed flask and then dissolved in a mixture of 100 ml of anhydrous DMF and 27 ml of N,N-di-iso-propylethylamine. The mixture was heated to 80° C. for 16 hours. The solvent was evaporated at 50-60° C. under reduced pressure to afford a dark oil. The oil was extracted three to four times with 300 ml of toluene. The toluene phases were combined and evaporated. The resulting oil was purified via chromatography on silica gel using a gradient of ethyl acetate in hexanes to afford 18.40 g (59.72 mmol; 58%) of 3-amino-6-iodo-pyrazine-2-carboxylic acid methoxy-methyl-amide as a yellow solid. 1H-NMR (d6-DMSO) δ: 8.28 [1H] s, 6.78 [2H] s, 3.66 [3H] s, 3.25 [3H] s. MS: m/z 309 [MH+].

reactant | 3-amino-6-iodo-pyrazine-2-carboxylic acid | 0.104 mol, 27.50 g | NC=1C(=NC(=CN1)I)C(=O)O | C5H4IN3O2
reactant | PyBOP | 0.125 mol, 63.0 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.193 mol, 18.70 g | Cl.CNOC
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | N,N-di-iso-propylethylamine | 27 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | 3-amino-6-iodo-pyrazine-2-carboxylic acid methoxy-methyl-amide | 59.72 mmol, 18.40 g, 58% | CON(C(=O)C1=NC(=CN=C1N)I)C | C7H9IN4O2
